US05180824
Synthesis of 9-(2,3,5-Tri-O-benzyl-β-D-arabinofuranosyl)-2-fluoroadenine
6-Azido-2-fluoro-9-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)purine (0.28 g, 0.48 Mmol) was dissolved in warm 2-propanol (3 mL) and then cooled to about 25° C. To the resulting solution was added sodium borohydride (18 mg, 0.48 Mmol) and the mixture was stirred at room temperature for 10 minutes and then at reflux for 15 minutes. The reaction was complete as determined by TLC so it was cooled to room temperature and diluted with water (10 mL). The resulting precipitate was recovered by filtration to obtain 0.19 g of the title compound; mp 159°-161° C. (from toluene/ethanol). This material was identical by IR and TLC with an authentic sample of the title compound.

reactant | 6-Azido-2-fluoro-9-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)purine | 0.48 Mmol, 0.28 g | N(=[N+]=[N-])C1=C2N=CN(C2=NC(=N1)F)[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C31H28FN7O4
reactant | sodium borohydride | 0.48 Mmol, 18 mg | [BH4-].[Na+]
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | 9-(2,3,5-Tri-O-benzyl-β-D-arabinofuranosyl)-2-fluoroadenine | 0.19 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)F | C31H30FN5O4
